US09303023B2
To a solution of 4,5-dimethoxypyrimidin-2-amine (350 mg, 2.26 mmol) in DCM (3.5 mL), DIPEA (1.2 mL, 7.0 mmol) was added, followed by chloracetylchloride (0.30 mL, 3.72 mmol). The resulting dark brown reaction mixture was stirred at rt for 1 h, then quenched with water and diluted with DCM. The org. layer was separated and the aq. layer extracted with DCM (1×). The combined org. layers were washed with brine, dried (MgSO4), filtered and the solvent removed under reduced pressure to obtain 2-chloro-N-(4,5-dimethoxypyrimidin-2-yl)acetamide as a brown oil which was used in the next step without further purification. LC-MS conditions B: tR=0.38 min, [M+H]+=232.07.

reactant | 4,5-dimethoxypyrimidin-2-amine | 2.26 mmol, 350 mg | COC1=NC(=NC=C1OC)N | C6H9N3O2
reactant | DIPEA | 7.0 mmol, 1.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | chloracetylchloride | 3.72 mmol, 0.30 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | DCM | 3.5 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-N-(4,5-dimethoxypyrimidin-2-yl)acetamide | ClCC(=O)NC1=NC=C(C(=N1)OC)OC | C8H10ClN3O3
